US05391537
Preparation of methyl 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-(N,N-dimethylamino)picolinate (Compound No. 19)
1.4 g (7 mmol) of methyl 6-(N,N-dimethylamino)-3-hydroxypicolinate, 1.6 g (7 mmol) of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 0.6 g (4 mmol) of potassium carbonate were added to 100 ml of dimethylformamide (DMF), and were reacted at 90° C. for 2 hours. After the reaction, the reaction content was poured into water, and was extracted with diethyl ether, and then washed with water, dried and concentrated to obtain an oily product which was thereafter crystallized with isopropyl ether. The crystal thus obtained was recrystallized with ethyl acetate/n-hexane to obtain an aimed product.

reactant | methyl 6-(N,N-dimethylamino)-3-hydroxypicolinate | 7 mmol, 1.4 g | CN(C)C1=CC=C(C(=N1)C(=O)OC)O | C9H12N2O3
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 7 mmol, 1.6 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 4 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-(N,N-dimethylamino)picolinate | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)OC | C15H18N4O5
